US05176983
Preparation of 4-(2,5-dioxolanyl)phenyl methacrylate
A 500 mL round bottom flask fitted with reflux condenser, Dean Stark trap and nitrogen line was charged with 30.0 g of 4-formylphenyl methacrylate, 19.0 g of ethylene glycol, 250 mL of toluene and a catalytic amount of p-toluenesulfonic acid monohydrate. The solution was heated at reflux for 1 day, during which time the water formed in the reaction was removed periodically from the Dean Stark trap. Toluene was added to make up for losses from the Dean Stark trap, and the solution was heated at reflux for an additional 15 hours. Thereafter the solution was cooled to room temperature, was washed with three 75 mL portions of saturated sodium bicarbonate solution, and the toluene extracts were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The crude acetal was chromatographed on silica gel (20:1 silica gel to compound weight ratio) with hexane/ethylacetate (4:1 volume ratio) to give purified acetal (18.8 g). 1H NMR (CDCL3) 7,5 (d, 2H), 7,1 (d, 2H), 6.3 (s, 1H), 5.78 (s, 1H), 5.7 (s, 1H), 4.15-3.85 (m, 4H), 2.02 (s, 3H); 13C NMR (CDCl3) 165, 151, 135, 128, 127, 121, 103, 65, 18; IR (neat) 1,735 cm-1 ester carbonyl. The spectral data are consistent with the postulated structure. The chromatographed acetal was used directly in the free radical polymerizations.

reactant | 4-formylphenyl methacrylate | 30.0 g | C(C(=C)C)(=O)OC1=CC=C(C=C1)C=O | C11H10O3
reactant | ethylene glycol | 19.0 g | C(CO)O | C2H6O2
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 4-(2,5-dioxolanyl)phenyl methacrylate | C(C(=C)C)(=O)OC1=CC=C(C=C1)C1OCCO1 | C13H14O4
